** Name: SimpleTwoStageOpAmp_SimpleOpAmp55_10

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp55_10 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=4e-6
mDiodeTransistorNmos2 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=5e-6 W=40e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=4e-6 W=40e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=35e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=511e-6
mNormalTransistorNmos6 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 nmos4 L=4e-6 W=40e-6
mNormalTransistorNmos7 out ibias sourceNmos sourceNmos nmos4 L=4e-6 W=581e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=145e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX2 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=132e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=5e-6 W=40e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=24e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=24e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=4e-6 W=56e-6
mNormalTransistorPmos14 outFirstStage outVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=87e-6
mNormalTransistorPmos15 out outVoltageBiasXXpXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=545e-6
mNormalTransistorPmos16 FirstStageYout1 outVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=87e-6
mNormalTransistorPmos17 FirstStageYsourceGCC1 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=328e-6
mNormalTransistorPmos18 FirstStageYsourceGCC2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=328e-6
mNormalTransistorPmos19 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=600e-6
Capacitor1 outFirstStage out 7.5e-12
Capacitor2 out sourceNmos 10e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp55_10

** Expected Performance Values: 
** Gain: 127 dB
** Power consumption: 12.7561 mW
** Area: 6961 (mu_m)^2
** Transit frequency: 15.7761 MHz
** Transit frequency with error factor: 15.7754 MHz
** Slew rate: 18.217 V/mu_s
** Phase margin: 60.1606°
** CMRR: 132 dB
** VoutMax: 4.25 V
** VoutMin: 0.340001 V
** VcmMax: 5.22001 V
** VcmMin: 0.930001 V


** Expected Currents: 
** NormalTransistorNmos: 355.369 muA
** NormalTransistorNmos: 323.5 muA
** NormalTransistorPmos: -137.242 muA
** NormalTransistorPmos: -205.862 muA
** NormalTransistorPmos: -137.246 muA
** NormalTransistorPmos: -205.868 muA
** DiodeTransistorNmos: 137.245 muA
** NormalTransistorNmos: 137.246 muA
** NormalTransistorNmos: 137.247 muA
** DiodeTransistorNmos: 137.246 muA
** NormalTransistorNmos: 137.243 muA
** NormalTransistorNmos: 68.6211 muA
** NormalTransistorNmos: 68.6211 muA
** NormalTransistorNmos: 1450.61 muA
** NormalTransistorPmos: -1450.6 muA
** NormalTransistorPmos: -1450.6 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -355.368 muA
** DiodeTransistorPmos: -323.499 muA


** Expected Voltages: 
** ibias: 0.747001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 4.07001  V
** outVoltageBiasXXpXX1: 3.68601  V
** outVoltageBiasXXpXX2: 4.24801  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.853001  V
** innerTransistorStack1Load2: 0.850001  V
** out1: 1.65901  V
** sourceGCC1: 4.54601  V
** sourceGCC2: 4.54601  V
** sourceTransconductance: 1.91101  V
** innerTransconductance: 4.63401  V


.END