** Name: SimpleTwoStageOpAmp_SimpleOpAmp5_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp5_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=8e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=1e-6 W=15e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=2e-6 W=10e-6
mDiodeTransistorPmos4 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=2e-6 W=10e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=580e-6
mNormalTransistorNmos6 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=599e-6
mNormalTransistorNmos7 outFirstStage inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=3e-6 W=463e-6
mNormalTransistorNmos8 outInputVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=1e-6 W=10e-6
mNormalTransistorNmos9 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=10e-6 W=351e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=10e-6 W=351e-6
mNormalTransistorNmos11 FirstStageYinnerSourceLoad1 inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 nmos4 L=3e-6 W=463e-6
mNormalTransistorPmos12 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=2e-6 W=48e-6
mNormalTransistorPmos13 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=580e-6
mNormalTransistorPmos14 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=216e-6
mNormalTransistorPmos15 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=2e-6 W=30e-6
mNormalTransistorPmos16 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=216e-6
mNormalTransistorPmos17 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=2e-6 W=577e-6
mNormalTransistorPmos18 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=10e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4.20001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp5_5

** Expected Performance Values: 
** Gain: 100 dB
** Power consumption: 9.24001 mW
** Area: 15000 (mu_m)^2
** Transit frequency: 53.9671 MHz
** Transit frequency with error factor: 53.8684 MHz
** Slew rate: 78.8771 V/mu_s
** Phase margin: 60.1606°
** CMRR: 92 dB
** negPSRR: 100 dB
** posPSRR: 225 dB
** VoutMax: 3.49001 V
** VoutMin: 0.150001 V
** VcmMax: 3.71001 V
** VcmMin: -0.25 V


** Expected Currents: 
** NormalTransistorNmos: 19.8771 muA
** NormalTransistorPmos: -30.4179 muA
** NormalTransistorPmos: -48.8799 muA
** NormalTransistorNmos: 293.957 muA
** NormalTransistorNmos: 293.958 muA
** NormalTransistorNmos: 293.959 muA
** NormalTransistorNmos: 293.958 muA
** NormalTransistorPmos: -587.912 muA
** NormalTransistorPmos: -293.956 muA
** NormalTransistorPmos: -293.956 muA
** NormalTransistorNmos: 1140.91 muA
** NormalTransistorPmos: -1140.9 muA
** DiodeTransistorPmos: -1140.9 muA
** DiodeTransistorNmos: 30.4171 muA
** DiodeTransistorNmos: 48.8791 muA
** DiodeTransistorPmos: -19.8779 muA
** NormalTransistorPmos: -19.8789 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.10001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.868001  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outInputVoltageBiasXXpXX1: 2.93001  V
** outSourceVoltageBiasXXpXX1: 3.96501  V
** outVoltageBiasXXnXX0: 0.559001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 0.718001  V
** innerTransistorStack1Load1: 0.313001  V
** innerTransistorStack2Load1: 0.313001  V
** sourceTransconductance: 3.45301  V
** inner: 3.96401  V


.END