** Name: SimpleTwoStageOpAmp_SimpleOpAmp5_6

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp5_6 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=8e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=5e-6 W=67e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos4 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=2e-6 W=38e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=492e-6
mNormalTransistorNmos6 out inputVoltageBiasXXnXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=2e-6 W=600e-6
mNormalTransistorNmos7 outFirstStage inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=2e-6 W=182e-6
mNormalTransistorNmos8 outInputVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=5e-6 W=154e-6
mNormalTransistorNmos9 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=2e-6 W=318e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=2e-6 W=318e-6
mNormalTransistorNmos11 FirstStageYinnerSourceLoad1 inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 nmos4 L=2e-6 W=182e-6
mNormalTransistorNmos12 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=599e-6
mNormalTransistorPmos13 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=76e-6
mNormalTransistorPmos14 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=492e-6
mNormalTransistorPmos15 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=6e-6 W=562e-6
mNormalTransistorPmos16 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=68e-6
mNormalTransistorPmos17 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=6e-6 W=562e-6
mNormalTransistorPmos18 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos19 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=38e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4.60001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp5_6

** Expected Performance Values: 
** Gain: 133 dB
** Power consumption: 14.6841 mW
** Area: 14538 (mu_m)^2
** Transit frequency: 47.5271 MHz
** Transit frequency with error factor: 47.4628 MHz
** Slew rate: 127.299 V/mu_s
** Phase margin: 60.1606°
** CMRR: 97 dB
** negPSRR: 94 dB
** posPSRR: 103 dB
** VoutMax: 3.08001 V
** VoutMin: 0.480001 V
** VcmMax: 3.77001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorNmos: 157.653 muA
** NormalTransistorPmos: -68.9429 muA
** NormalTransistorPmos: -77.0539 muA
** NormalTransistorNmos: 304.164 muA
** NormalTransistorNmos: 304.163 muA
** NormalTransistorNmos: 304.164 muA
** NormalTransistorNmos: 304.163 muA
** NormalTransistorPmos: -608.326 muA
** NormalTransistorPmos: -304.163 muA
** NormalTransistorPmos: -304.163 muA
** NormalTransistorNmos: 2004.8 muA
** NormalTransistorNmos: 2004.8 muA
** NormalTransistorPmos: -2004.79 muA
** DiodeTransistorPmos: -2004.79 muA
** DiodeTransistorNmos: 68.9421 muA
** DiodeTransistorNmos: 77.0531 muA
** DiodeTransistorPmos: -157.652 muA
** NormalTransistorPmos: -157.652 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.19901  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.883001  V
** out: 2.5  V
** outFirstStage: 0.603001  V
** outInputVoltageBiasXXpXX1: 2.51601  V
** outSourceVoltageBiasXXpXX1: 3.75801  V
** outVoltageBiasXXnXX0: 0.651001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 0.555001  V
** innerTransistorStack1Load1: 0.279001  V
** innerTransistorStack2Load1: 0.279001  V
** sourceTransconductance: 3.48901  V
** innerTransconductance: 0.198001  V
** inner: 3.75801  V


.END