** Name: SimpleTwoStageOpAmp_SimpleOpAmp71_12

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp71_12 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=3e-6 W=12e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=2e-6 W=15e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=409e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=15e-6
mDiodeTransistorNmos5 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mDiodeTransistorPmos6 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos7 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=5e-6 W=214e-6
mNormalTransistorNmos8 out outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=2e-6 W=409e-6
mNormalTransistorNmos9 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=150e-6
mNormalTransistorNmos11 outVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=107e-6
mNormalTransistorNmos12 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=176e-6
mNormalTransistorNmos13 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=7e-6 W=214e-6
mNormalTransistorNmos14 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=7e-6 W=214e-6
mNormalTransistorNmos15 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=3e-6 W=73e-6
mNormalTransistorNmos16 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=15e-6
mNormalTransistorPmos17 out outVoltageBiasXXpXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=596e-6
mNormalTransistorPmos18 outFirstStage outVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=131e-6
mNormalTransistorPmos19 outInputVoltageBiasXXnXX1 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=5e-6 W=168e-6
mNormalTransistorPmos20 FirstStageYout1 outVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=131e-6
mNormalTransistorPmos21 FirstStageYsourceGCC1 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=5e-6 W=531e-6
mNormalTransistorPmos22 FirstStageYsourceGCC2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=5e-6 W=531e-6
mNormalTransistorPmos23 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=600e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 8.60001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp71_12

** Expected Performance Values: 
** Gain: 136 dB
** Power consumption: 10.5051 mW
** Area: 14999 (mu_m)^2
** Transit frequency: 14.3001 MHz
** Transit frequency with error factor: 14.289 MHz
** Slew rate: 13.4775 V/mu_s
** Phase margin: 60.1606°
** CMRR: 96 dB
** VoutMax: 4.25 V
** VoutMin: 0.990001 V
** VcmMax: 5.10001 V
** VcmMin: 1.35001 V


** Expected Currents: 
** NormalTransistorNmos: 100.08 muA
** NormalTransistorNmos: 71.3891 muA
** NormalTransistorPmos: -55.2569 muA
** NormalTransistorPmos: -116.456 muA
** NormalTransistorPmos: -174.683 muA
** NormalTransistorPmos: -116.458 muA
** NormalTransistorPmos: -174.687 muA
** DiodeTransistorNmos: 116.459 muA
** NormalTransistorNmos: 116.459 muA
** NormalTransistorNmos: 116.456 muA
** NormalTransistorNmos: 116.455 muA
** NormalTransistorNmos: 58.2281 muA
** NormalTransistorNmos: 58.2281 muA
** NormalTransistorNmos: 1514.9 muA
** DiodeTransistorNmos: 1514.9 muA
** NormalTransistorPmos: -1514.89 muA
** NormalTransistorPmos: -1514.89 muA
** DiodeTransistorNmos: 55.2561 muA
** NormalTransistorNmos: 55.2551 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -100.079 muA
** DiodeTransistorPmos: -71.3899 muA


** Expected Voltages: 
** ibias: 1.13401  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 4.06201  V
** outInputVoltageBiasXXnXX1: 1.40001  V
** outSourceVoltageBiasXXnXX1: 0.700001  V
** outSourceVoltageBiasXXnXX2: 0.558001  V
** outVoltageBiasXXpXX1: 3.68601  V
** outVoltageBiasXXpXX2: 4.13201  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.491001  V
** out1: 1.14401  V
** sourceGCC1: 4.47201  V
** sourceGCC2: 4.47201  V
** sourceTransconductance: 1.94501  V
** innerTransconductance: 4.62601  V
** inner: 0.699001  V


.END