** Name: SimpleTwoStageOpAmp_SimpleOpAmp71_2

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp71_2 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=19e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=12e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=4e-6 W=208e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=15e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=87e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=291e-6
mNormalTransistorNmos7 out inputVoltageBiasXXnXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=2e-6 W=600e-6
mNormalTransistorNmos8 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=4e-6 W=208e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX2 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=431e-6
mNormalTransistorNmos10 FirstStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=267e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=73e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=73e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance inputVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=2e-6 W=145e-6
mNormalTransistorNmos14 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=519e-6
mNormalTransistorPmos15 inputVoltageBiasXXnXX1 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=50e-6
mNormalTransistorPmos16 out outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=382e-6
mNormalTransistorPmos17 outFirstStage inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=261e-6
mNormalTransistorPmos18 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=261e-6
mNormalTransistorPmos19 FirstStageYsourceGCC1 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=69e-6
mNormalTransistorPmos20 FirstStageYsourceGCC2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=69e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 7.5e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp71_2

** Expected Performance Values: 
** Gain: 104 dB
** Power consumption: 9.29501 mW
** Area: 9215 (mu_m)^2
** Transit frequency: 19.3621 MHz
** Transit frequency with error factor: 19.353 MHz
** Slew rate: 16.08 V/mu_s
** Phase margin: 60.1606°
** CMRR: 109 dB
** VoutMax: 4.62001 V
** VoutMin: 0.350001 V
** VcmMax: 5.03001 V
** VcmMin: 1.27001 V


** Expected Currents: 
** NormalTransistorNmos: 152.301 muA
** NormalTransistorNmos: 225.572 muA
** NormalTransistorPmos: -129.638 muA
** NormalTransistorPmos: -106 muA
** NormalTransistorPmos: -175.52 muA
** NormalTransistorPmos: -106 muA
** NormalTransistorPmos: -175.52 muA
** DiodeTransistorNmos: 106.001 muA
** NormalTransistorNmos: 106.001 muA
** NormalTransistorNmos: 139.038 muA
** NormalTransistorNmos: 139.037 muA
** NormalTransistorNmos: 69.5191 muA
** NormalTransistorNmos: 69.5191 muA
** NormalTransistorNmos: 990.446 muA
** NormalTransistorNmos: 990.445 muA
** NormalTransistorPmos: -990.445 muA
** DiodeTransistorNmos: 129.639 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -152.3 muA
** DiodeTransistorPmos: -225.571 muA


** Expected Voltages: 
** ibias: 0.562001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.912001  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outVoltageBiasXXpXX2: 4.05701  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.357001  V
** out1: 0.560001  V
** sourceGCC1: 4.40001  V
** sourceGCC2: 4.40001  V
** sourceTransconductance: 1.94501  V
** innerTransconductance: 0.309001  V


.END